US09428470B2
A) tert-Butyl 3-(5-(benzyloxy)-2-((1E)-3-(benzyloxy)-3-oxoprop-1-en-1-yl)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
A mixture of tert-butyl 3-(5-(benzyloxy)-2-bromophenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate (1.00 g), benzyl acrylate (1.484 g), palladium acetate (0.021 g), tris(2-methylphenyl)phosphine (0.084 g), triethylamine (0.765 mL), and DMF (10 mL) was stirred at 100 C for 2 days in an argon atmosphere. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (0.260 g).

reactant | tert-butyl 3-(5-(benzyloxy)-2-bromophenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 1.00 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)Br | C27H32BrNO6
reactant | benzyl acrylate | 1.484 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
reactant | tris(2-methylphenyl)phosphine | 0.084 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | triethylamine | 0.765 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.021 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(5-(benzyloxy)-2-((1E)-3-(benzyloxy)-3-oxoprop-1-en-1-yl)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 0.260 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)\C=C\C(=O)OCC1=CC=CC=C1 | C37H41NO8
